Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.615881153219999
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]#[C:7][H:8]>>[C:2](#[C:3][H:4])[O:5][C:6]#[C:7][H:8].[O:1],3.8043655246900014
[H:1][C:2](=[C:3]([H:4])[H:5])[C:9]([C:6]([H:7])[H:8])([H:10])[H:11]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-0.02495896855
[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.30370680752
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],1.97443137026
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.99751319263
[C:9]([H:10])([O:11][H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15],-1.0829704092
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.29990876967
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13][H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],-5.1144528546900005
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7].[H:8],4.546972379740001
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.3711018634299998
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:3][H:4],4.03411648931
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.0821215433
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.05122515182
[C:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2](=[C:3](\[H:4])[O:5][H:6])\[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],5.03632061607
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[C:3]([H:4])([H:5])=[C:6][H:7].[O:1]=[C:2],-2.18379233953
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-3.75234826148
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8][H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8].[H:9],4.13477014852
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-3.78501029697
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-8.213464232289999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7][O:8][H:9],2.25269109753
[C:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.22073502193
[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.13899758686
[H:1][C:2]#[C:3][C:4]1[O:5][C:6]([H:7])[C:8]1([H:9])[H:10]>>[H:1][C:2]#[C:3][C:6][O:5][C:4]([H:7])=[C:8]([H:9])[H:10],0.0154492708907
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9][H:10],5.13515561685
[H:9].[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],-4.47744339062
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],1.85315331774
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][H:8]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])[H:11],-5.569674710319999
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9][O:10][H:11].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-3.1319532765900004
[H:1][C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:5]([H:6])[H:7].[H:1][C:2][O:3][C:4]=[C:8]([H:9])[H:10],6.51408301402
